US07786108B2
Step 6. Preparation of (+/−)-Isopropyl 5-[(3,5-bistrifluoromethylbenzyl)-(2H-tetrazol-5-yl)amino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add a solution of (+/−)-isopropyl 5-[(3,5-bistrifluoromethylbenzyl)-cyanoamino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate in anhydrous N,N-dimethylformamide dropwise to a stirred suspension of sodium azide and ammonium chloride in anhydrous N,N-dimethylformamide and heat the resulting yellow mixture at 110° C. under nitrogen. Dilute the cooled mixture with water and 2 N NaOH and wash with diethyl ether. Acidify with 5 N HCl, collect the precipitate and wash with water to provide the title compound.

reactant | (+/−)-isopropyl 5-[(3,5-bistrifluoromethylbenzyl)-cyanoamino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C=CC(=C3)Br)C#N)C=C(C1)C(F)(F)F)(F)F | C24H22BrF6N3O2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | NaOH | 2 N | [OH-].[Na+]
product | (+/−)-Isopropyl 5-[(3,5-bistrifluoromethylbenzyl)-(2H-tetrazol-5-yl)amino]-7-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C=CC(=C3)Br)C=3N=NNN3)C=C(C1)C(F)(F)F)(F)F | C24H23BrF6N6O2
